US06143779
Synthesis of 2-[(3-ethoxy-4-hydroxyphenyl)methylene]-6-hydroxy-3(2H)-benzofuranone
After 6-hydroxy-2H-benzofuran-3-one 1 g and 3-ethoxy-4-hydroxybenzaldehyde 1.22 g were dissolved in methanol 75 ml, concentrated -hydrochloric acid 50 ml was added, and the mixture was refluxed for 1.5 hours. The solution was cooled to room temperature, and precipitated crystals were filtered and dried over phosphorous pentoxide at a temperature of 60° C. for four hours under reduced pressure to obtain the desired compound 1.19 g.

reactant | 6-hydroxy-2H-benzofuran-3-one | 1 g | OC1=CC2=C(C(CO2)=O)C=C1 | C8H6O3
reactant | 3-ethoxy-4-hydroxybenzaldehyde | 1.22 g | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
solvent | methanol | 75 ml | CO | CH4O
product | 2-[(3-ethoxy-4-hydroxyphenyl)methylene]-6-hydroxy-3(2H)-benzofuranone | 1.19 g | C(C)OC=1C=C(C=CC1O)C=C1OC2=C(C1=O)C=CC(=C2)O | C17H14O5
